US07211668B2
N-{2-[5-(4-Nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester
The title compound was synthesized by the reaction of N-(2-aminoethyl)-glycine ethyl ester 2HCl with 5-(4-nitrophenyl)-1,3,4-thiadiazole-2-sulfonyl chloride as per the procedure of example 1. 1H NMR (400 MHz; DMSO-d6) δ 8.42 (d, 2H), 8.27 (d, 2H), 6.40 (brs, 2H), 4.05 (q, 2H), 3.35 (s, 2H), 3.21 (t, 2H), 2.71 (t, 2H), 1.15 (t, 3H).

reactant | N-(2-aminoethyl)-glycine ethyl ester 2HCl | Cl.Cl.C(C)OC(CNCCN)=O
reactant | 5-(4-nitrophenyl)-1,3,4-thiadiazole-2-sulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN=C(S1)S(=O)(=O)Cl | C8H4ClN3O4S2
product | N-{2-[5-(4-Nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester | C(C)OC(CNCCNS(=O)(=O)C=1SC(=NN1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C14H17N5O6S2
